### PR TITLE
[Merged by Bors] - feat(LinearAlgebra): generators of pi tensor products

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, we show that the `R`-module `⨂[R] i, M i` is finitely generated if the index type is finite and all `M i` are finitely generated. This follows from a more precise result about generators of `⨂[R] i, M i`.

--- 

This PR continues the work from #18725.

Original PR: https://github.com/leanprover-community/mathlib4/pull/18725

### CODE REVIEW

**Comment by joelriou** [comment]
## Comments from Original PR #18725

*This section contains 1 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2024-11-07 11:26 UTC](https://github.com/leanprover-community/mathlib4/pull/18725#issuecomment-2461989939)):
### PR summary [2aeaf9289b](https://github.com/leanprover-community/mathlib4/pull/18725/commits/2aeaf9289b7d1699405e1753cdc6dcd9e3424356)

#### Import changes for modified files

No significant changes to the import graph


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|
| `Mathlib.LinearAlgebra.PiTensorProduct`|-886|
| `Mathlib.LinearAlgebra.PiTensorProduct.Basic`|886|
| `Mathlib.LinearAlgebra.PiTensorProduct.Generators` (new file)|964|
| `Mathlib.LinearAlgebra.PiTensorProduct.Finite` (new file)|1012|

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ _root_.MultilinearMap.ext_of_span_eq_top`
`+ card_compl_add_card`
`+ card_singleton_compl`
`+ equivTensorPiTensorComplSingleton`
`+ equivTensorPiTensorComplSingleton_symm_tmul`
`+ equivTensorPiTensorComplSingleton_tprod`
`+ ext_of_span_eq_top`
`+ extendCompSingleton_restriction`
`+ extendComplSingleton`
`+ extendComplSingleton_of_neq`
`+ extendComplSingleton_self`
`+ finite`
`+ submodule_span_eq_top`
`+ sumSingletonComplEquiv`
`+ sumSingletonComplEquiv_inl`
`+ sumSingletonComplEquiv_inr`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>Increase in tech debt: (relative, absolute) = (2.00, 0.00)</summary>

|Current number|Change|Type|
|-:|:-:|:-|
|854|2|erw|

Current commit [2aeaf9289b](https://github.com/leanprover-community/mathlib4/commit/2aeaf9289b7d1699405e1753cdc6dcd9e3424356)
Reference commit [b5368c7d48](https://github.com/leanprover-community/mathlib4/commit/b5368c7d48612974c32bab5cebc280f2517b33be)

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>


---


⚠️ **warning**: file `Mathlib/LinearAlgebra/PiTensorProduct.lean` was renamed to `Mathlib/LinearAlgebra/PiTensorProduct/Basic.lean` without a module deprecation

File: Mathlib/Data/Set/ComplSingletonLift.lean [hunk 1]
```diff
@@ -0,0 +1,73 @@
...
+
+-/
+
+
+namespace Set
+
+/-- The bijection `Unit ⊕ (({i₀})ᶜ : Set ι) ≃ ι` for any `i₀ : ι` -/
+noncomputable def sumSingletonComplEquiv {ι : Type*} (i₀ : ι) :
+    Unit ⊕ (({i₀})ᶜ : Set ι) ≃ ι :=
+  .ofBijective
```
Comment (eric-wieser) [inline Mathlib/Data/Set/ComplSingletonLift.lean]: I'd argue we should define this computably with `DecidableEq`, and probably as `Unit ⊕ {i // i \ne i₀}` or whichever way around the `\ne` should be to make this defeq to the statement of your version.

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 2]
```diff
@@ -246,6 +246,21 @@ theorem card_zmod (n : ℕ) : Nat.card (ZMod n) = n := by
...
+  simp only [card_eq_fintype_card, ← Finset.card_compl_add_card S.toFinset, Set.toFinset_card,
+    Fintype.card_ofFinset]
+  congr
+  ext
+  simp
+
+lemma card_singleton_compl {α : Type*} [Finite α] (i : α) {n : ℕ} (h : Nat.card α = n + 1) :
+    Nat.card ({i}ᶜ : Set α) = n := by
+  rw [← add_left_inj 1, ← h, ← Nat.card_compl_add_card {i}]
+  simp only [card_eq_fintype_card, Fintype.card_ofSubsingleton]
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Cardinal/Finite.lean]: I think a better lemma would be
```suggestion
lemma card_compl {α : Type*} (S : Set α) [Finite α] :
    Nat.card (Sᶜ : Set α) = Nat.card α - Nat.card S := by
  rw [← card_compl_add_card S, add_tsub_cancel_right]
```

File: Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean [hunk 3]
```diff
@@ -0,0 +1,150 @@
...
+    φ = φ' := by
+  suffices lift φ = lift φ' by
+    ext m
+    simpa using DFunLike.congr_fun this (tprod _ m)
+  exact PiTensorProduct.ext_of_span_eq_top hg (fun j ↦ by simpa using h j)
+
+lemma submodule_span_eq_top
+    (hg : ∀ i, Submodule.span R (Set.range (@g i)) = ⊤) :
+    Submodule.span R (Set.range (fun j : ((i : ι) → γ i) ↦
+      ⨂ₜ[R] (i : ι), g (j i))) = ⊤ := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean:147]: Is there a more general statement here that expresses `Submodule.span R (Set.range (fun j : ((i : ι) → γ i) ↦⨂ₜ[R] (i : ι), g (j i)))` in terms of `Submodule.span R (Set.range (@g i))`?

File: Mathlib/Data/Set/ComplSingletonLift.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/Data/Set/ComplSingletonLift.lean]: I have implemented this, but I am not sure in which file this should land?

File: Mathlib/SetTheory/Cardinal/Finite.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/SetTheory/Cardinal/Finite.lean]: I have added this, but also the following lemma, which I find more useful:
```lean
lemma card_compl_of_card_eq_add {α : Type*} [Finite α] (S : Set α) {n : ℕ}
    (h : Nat.card α = n + Nat.card S) :
    Nat.card (Sᶜ : Set α) = n := by
  rwa [← card_compl_add_card S, Nat.add_right_cancel_iff] at h
```

File: Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean:147]: I do not see any such obvious statement with the current definitions. In order to do this, we would have to define a "PiTensorProduct" operation on submodules, but I am not sure we need/want to do this; and this would have to be in separate PRs anyway.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/LinearAlgebra/PiTensorProduct/Finite.lean [hunk 4]
```diff
@@ -0,0 +1,30 @@
...
+    {M : ι → Type*} [∀ i, AddCommGroup (M i)] [∀ i, Module R (M i)]
+    [∀ i, Module.Finite R (M i)] :
+    Module.Finite R (⨂[R] i, M i) := by
+  have hM i := Module.Finite.exists_fin (R := R) (M := M i)
+  let γ i := Fin (hM i).choose
+  let g ⦃i : ι⦄ : γ i → M i := (hM i).choose_spec.choose
+  have hg (i : ι) : Submodule.span R (Set.range (fun (j : γ i) ↦ g j)) = ⊤ :=
+    (hM i).choose_spec.choose_spec
+  rw [Module.finite_def, ← submodule_span_eq_top hg]
+  exact Submodule.fg_span (Set.finite_range _)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct/Finite.lean]:
```suggestion
  choose n γ hg using fun i => Module.Finite.exists_fin (R := R) (M := M i)
  rw [Module.finite_def, ← submodule_span_eq_top hg]
  exact Submodule.fg_span (Set.finite_range _)
```

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Data/SubtypeNeLift.lean [hunk 5]
```diff
@@ -0,0 +1,69 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Joël Riou
+-/
+import Mathlib.Logic.Equiv.Defs
+
+/-!
+# Extending a function from the complement of a singleton
+
+In this file, we define `Function.subtypeNeLift` which allows to
+extend a (dependant) function defined on the complement of a singleton.
```
Comment (joelriou) [inline Mathlib/Data/SubtypeNeLift.lean]:
```suggestion
extend a (dependent) function defined on the complement of a singleton.
```

**Comment by riccardobrasca** [comment]
You are also doing a file splitting, right? Can you do it in a separate PR? Request my review, that one can most likely be merged very quickly.

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 6]
```diff
@@ -246,6 +246,25 @@ theorem card_zmod (n : ℕ) : Nat.card (ZMod n) = n := by
   · exact @Nat.card_eq_zero_of_infinite _ Int.infinite
   · rw [Nat.card_eq_fintype_card, ZMod.card]
 
+lemma card_compl_add_card {α : Type*} (S : Set α) [Finite α] :
```
Comment (riccardobrasca) [inline Mathlib/SetTheory/Cardinal/Finite.lean]: Can you use the `α` already in scope?

File: Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean [hunk 7]
```diff
@@ -0,0 +1,148 @@
...
+end equivTensorPiTensorComplSingleto
+
+variable {R} {ι : Type*} [Finite ι] {M : ι → Type*} {N : Type*} {γ : ι → Type*}
+
+section AddCommMonoid
+variable
+  [CommSemiring R] [∀ i, AddCommMonoid (M i)] [∀ i, Module R (M i)] [AddCommMonoid N] [Module R N]
+  {g : ⦃i : ι⦄ → (j : γ i) → M i}
+
+lemma ext_of_span_eq_top
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean:86]: Maybe you can tag this `ext`.

File: Mathlib/Data/SubtypeNeLift.lean [hunk 8]
```diff
@@ -0,0 +1,69 @@
...
+In this file, we define `Function.subtypeNeLift` which allows to
+extend a (dependent) function defined on the complement of a singleton.
+
+-/
+
+
+variable {ι : Type*} [DecidableEq ι] (i₀ : ι)
+
+/-- The bijection `Unit ⊕ { i // i ≠ i₀ } ≃ ι` for any `i₀ : ι` -/
+def unitSumSubtypeNeEquiv :
```
Comment (eric-wieser) [inline Mathlib/Data/SubtypeNeLift.lean]: This looks very similar to `Equiv.optionSubtypeNe`; can you build this in terms of it? Or should we just use that construction directly?

File: Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean [hunk 9]
```diff
@@ -0,0 +1,148 @@
...
+      convert h (Function.subtypeNeLift i₀ j g₀) using 1
+      all_goals
+        simp only [equivTensorPiTensorComplSingleton_tprod, Function.subtypeNeLift_self]
+        congr
+        ext ⟨x, hx⟩
+        congr
+        rw [Function.subtypeNeLift_of_neq]
+    · exact Nat.card_compl_of_card_eq_add _ (by simpa)
+
+lemma _root_.MultilinearMap.ext_of_span_eq_top
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean:129]: Same.

**Review by riccardobrasca — COMMENTED** [review]
Actually there is no need to split the PR, it is OK as it is.

File: Mathlib/Data/SubtypeNeLift.lean (hunk 8 above)
Comment (riccardobrasca) [reply Mathlib/Data/SubtypeNeLift.lean]: I also have the feeling this should be in the library in one form or another, maybe it is worth to ask on Zulip.

File: Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean (hunk 7 above)
Comment (joelriou) [reply Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean:86]: As the lemma uses variables which are not in the goal, it is not relevant for the `ext` attribute. (Some for the other "ext" lemma.)

File: Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean [hunk 10]
```diff
@@ -0,0 +1,153 @@
...
+  suffices lift φ = lift φ' by
+    ext m
+    simpa using DFunLike.congr_fun this (tprod _ m)
+  exact PiTensorProduct.ext_of_span_eq_top hg (fun j ↦ by simpa using h j)
+
+end AddCommMonoid
+
+variable
+  [CommRing R] [∀ i, AddCommGroup (M i)] [∀ i, Module R (M i)] [AddCommMonoid N] [Module R N]
+  {g : ⦃i : ι⦄ → (j : γ i) → M i}
```
Comment (joelriou) [inline Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean]:
```suggestion
variable [CommRing R] [∀ i, AddCommGroup (M i)] [∀ i, Module R (M i)]
  [AddCommMonoid N] [Module R N] {g : ⦃i : ι⦄ → (j : γ i) → M i}
```

File: Mathlib/Data/SubtypeNeLift.lean [hunk 11]
```diff
@@ -0,0 +1,47 @@
...
+
+In this file, we define `Function.subtypeNeLift` which allows to
+extend a (dependent) function defined on the complement of a singleton.
+
+-/
+
+@[expose] public section
+
+variable {ι : Type*} [DecidableEq ι] (i₀ : ι)
+
```
Comment (joelriou) [inline Mathlib/Data/SubtypeNeLift.lean]:
```suggestion
```

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 12]
```diff
@@ -249,6 +249,25 @@ theorem card_zmod (n : ℕ) : Nat.card (ZMod n) = n := by
   · exact @Nat.card_eq_zero_of_infinite _ Int.infinite
   · rw [Nat.card_eq_fintype_card, ZMod.card]
 
+lemma card_compl_add_card (S : Set α) [Finite α] :
```
Comment (Vierkantor) [inline Mathlib/SetTheory/Cardinal/Finite.lean]: Could you add the commuted version of this, `Nat.card S + Nat.card (Sᶜ : Set α) = Nat.card α`? I think both could be `simp` lemmas too.

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 13]
```diff
@@ -249,6 +249,25 @@ theorem card_zmod (n : ℕ) : Nat.card (ZMod n) = n := by
...
+  congr
+  ext
+  simp
+
+lemma card_compl_of_card_eq_add {α : Type*} [Finite α] (S : Set α) {n : ℕ}
+    (h : Nat.card α = n + Nat.card S) :
+    Nat.card (Sᶜ : Set α) = n := by
+  rwa [← card_compl_add_card S, Nat.add_right_cancel_iff] at h
+
+lemma card_compl {α : Type*} (S : Set α) [Finite α] :
```
Comment (Vierkantor) [inline Mathlib/SetTheory/Cardinal/Finite.lean]: I was very surprised we don't have this yet, but it seems indeed to be the case. I wonder if this should also be `@[simp]`.

File: Mathlib/Data/SubtypeNeLift.lean [hunk 14]
```diff
@@ -0,0 +1,45 @@
...
+@[expose] public section
+
+namespace Function
+
+variable {ι : Type*} [DecidableEq ι] {M : ι → Type*} (i₀ : ι)
+  (f : ∀ (j : { i // i ≠ i₀ }), M j) (x : M i₀)
+
+/-- Given `i₀ : ι` and `x : M i₀`, this is the (dependent) map `(i : ι) → M i`
+whose value at `i₀` is `x` and which extends a given map on the complement of `{i₀}`. -/
+def subtypeNeLift (i : ι) : M i :=
```
Comment (Vierkantor) [inline Mathlib/Data/SubtypeNeLift.lean:27]: Isn't this the same as `Function.update`?

**Review by Vierkantor — COMMENTED** [review]
@eric-wieser, would you be willing to pick up the review again, or shall I look for another reviewer?

File: Mathlib/SetTheory/Cardinal/Finite.lean (hunk 12 above)
Comment (joelriou) [reply Mathlib/SetTheory/Cardinal/Finite.lean]: Thanks for the suggestion!

File: Mathlib/Data/SubtypeNeLift.lean (hunk 14 above)
Comment (joelriou) [reply Mathlib/Data/SubtypeNeLift.lean:27]: This is slightly different as `Function.update` changes the value of a map that is already defined everywhere, while `subtypeNeLift` assumes that the original function is defined only on the complement of a singleton.

**Comment by joelriou** [comment]
Thanks very much @Vierkantor for the review!

File: Mathlib/SetTheory/Cardinal/Finite.lean (hunk 13 above)
Comment (joelriou) [reply Mathlib/SetTheory/Cardinal/Finite.lean]: As the RHS contains `-` on `Nat` which is sometimes ackward, it is probably safer not to make this `@[simp]`.

**Review by Vierkantor — APPROVED** [review]
I'm maintainer merging because everything outside of `Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean` looks good. Only that file goes a bit beyond my expertise but nothing jumps out to me either. And this PR has had a lot of review already.

maintainer merge?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
